US09278915B2
Intermediate 135: Methyl 3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoate
To a 50 mL RB flask fitted with magnetic stirrer was charged dry THF (5.0 mL) and (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol (0.134 g, 0.5 mmol). To the above mixture methyl 3-(4-hydroxyphenyl)hexanoate (0.11 g, 0.5 mmol) was added and the resulting mixture stirred at 0° C. for 5 min. Triphenyl phosphine (0.17 g, 0.65 mmol) was added to the mixture and stirred at 0° C. for 15 min followed by the addition of diethylazadicarboxylate (0.13 g, 0.65 mmol). After stirring the resulting mixture at RT for 16 h, the RM was evaporated to remove the THF. The residue was diluted with water (15 mL) and extracted with ethyl acetate (15 mL×2). The organic layer was washed with saturated brine solution (15 mL) and dried over anhydrous Na2SO4. Concentration of the solvent and purification of the resulting residue by column chromatography on silica gel (100/200 mesh), using petroleum ether and ethyl acetate as eluent, gave the product (0.05 g, yield: 21.74%)

reactant | (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol | 0.5 mmol, 0.134 g | CO\N=C(/COC1=CC=C(C=C1)CO)\C1=CC=CC=C1 | C16H17NO3
reactant | methyl 3-(4-hydroxyphenyl)hexanoate | 0.5 mmol, 0.11 g | OC1=CC=C(C=C1)C(CC(=O)OC)CCC | C13H18O3
reactant | Triphenyl phosphine | 0.65 mmol, 0.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Methyl 3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoate | 0.05 g, yield: 21.74% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C(CC(=O)OC)CCC)C=C1)\C1=CC=CC=C1 | C29H33NO5
